US05639752
To a stirred solution of sodium (2.51 g, 105 mmol, 7 eq) in absolute methanol (50 mL) was added the indole (15.0 mmol) and N-t-butoxycarbonyl-4-piperidone (8.96 g, 45.0 mmol 3.0 eq). The resulting reaction solution was heated at reflux (65° C.) under nitrogen for 3-24 hours, depending on the indole used. The resulting reaction solution was evaporated under reduced pressure, and the residue was partitioned between a saturated solution of sodium hydrogen carbonate (50 mL) and ethyl acetate (50 mL). The organic layer was removed, and the aqueous layer was extracted with ethyl acetate (2×50 mL). The organic extracts were combined, dried (MgSO4), and evaporated under reduced pressure. The residue was purified either by trituration in diethyl ether or by column chromatography to afford the desired 3-(N-t-butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)-1H-indole.

reactant | sodium | 105 mmol, 2.51 g, 7 eq | [Na] | Na
reactant | indole | 15.0 mmol | N1C=CC2=CC=CC=C12 | C8H7N
reactant | N-t-butoxycarbonyl-4-piperidone | 45.0 mmol, 8.96 g, 3.0 eq | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
solvent | methanol | 50 mL | CO | CH4O
product | 3-(N-t-butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)-1H-indole | C(C)(C)(C)OC(=O)N1CC=C(CC1)C1=CNC2=CC=CC=C12 | C18H22N2O2
